US08084644B2
N-phenyl-3-phenoxyacrylamide (1.5 g) was suspended to toluene (80 ml), then thionyl chloride (0.82 ml), triethylamine (1.8 ml) and one drop of DMF were added thereto at room temperature. The mixture was stirred on the 60° C. oil bath for three hours. Then it was cooled and filtered off the insoluble matter. The filtrate was concentrated under reduced pressure. The residue was dissolved to DMF (80 ml). Sodium salt of thiophenol (0.82 g) was added to it under ice-cooling, and stirred for 2 hours. t-Butyl methyl ether (250 ml) was added to the reaction mixture. It was successively washed with 1N aqueous sodium hydroxide solution, water and aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered off an inorganic salt, concentrated under reduced pressure. The residue was isolated and purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain phenyl N-phenyl-3-(phenoxy)thioacrylimidate (0.28 g) as yellow oil.

reactant | N-phenyl-3-phenoxyacrylamide | 1.5 g | C1(=CC=CC=C1)NC(C=COC1=CC=CC=C1)=O | C15H13NO2
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 0.82 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
product | phenyl N-phenyl-3-(phenoxy)thioacrylimidate | 0.28 g | C1(=CC=CC=C1)N=C(C=COC1=CC=CC=C1)SC1=CC=CC=C1 | C21H17NOS
